US08357703B2
e) N-Isopropyl-6-[5-methyl-3-(tetrahydro-pyran-4-yl)-isoxazol-4-ylmethoxy]-nicotinamide
As described for example 31e, 6-[5-methyl-3-(tetrahydro-pyran-4-yl)-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester (100 mg, 0.3 mol), instead of 6-(3-cyclohexyl-5-methyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester was converted, to the title compound (80 mg, 74%) which was obtained as a white solid after purification by chromatography (silica, 30 to 70% ethyl acetate in heptane). MS: m/e=360.3 [M+H]+.

reactant | 6-[5-methyl-3-(tetrahydro-pyran-4-yl)-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | 0.3 mol, 100 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1CCOCC1)=O | C17H20N2O5
reactant | 6-(3-cyclohexyl-5-methyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1CCCCC1)=O | C18H22N2O4
product | N-Isopropyl-6-[5-methyl-3-(tetrahydro-pyran-4-yl)-isoxazol-4-ylmethoxy]-nicotinamide | 80 mg, 74% | C(C)(C)NC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1CCOCC1)=O | C19H25N3O4
